US06787534B2
The compound obtained by the procedure of Example 1, except using 6-aminoisoquinoline (0.5 g, Synthesis, 733 (1975) and 4-chlorobenzenesulfonyl chloride (0.88 g) was dissolved in chloroform (150 ml). Under ice-cooling, m-chloroperbenzoic acid (0.9 g) was added thereto, followed by stirring at room temperature overnight. The solvent was evaporated, and the resulting crystals were washed with diethyl ether, collected by filtration and dried, to give 6-(4-chlorobenzenesulfonylamino)isoquinoline-N-oxide (1.072 g). In acetonitrile (1.5 ml) was dissolved 50 mg of the obtained compound. To the mixture were added trimethyl cyanide (0.08 ml) and triethylamine (0.04 ml), followed by heating under reflux for 3.5 hours. After evaporating the solvent, the residue was purified by silica gel column, to give the title compound (23 mg, 64%) as yellow crystals.

reactant | 6-aminoisoquinoline | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
reactant | 4-chlorobenzenesulfonyl chloride | 0.88 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | m-chloroperbenzoic acid | 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-chlorobenzenesulfonylamino)isoquinoline-N-oxide | 1.072 g | ClC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=C[N+](=CC2=CC1)[O-] | C15H11ClN2O3S
